US08076329B2
A To a solution of (3S)-1-{3-[4-(4-oxocyclohexyl)phenoxy]propyl}-3-methylpiperidine (170 mg) in methanol (5 mL) is added sodium borohydride (20 mg). The mixture is stirred for one hour at room temperature, and then concentrated under reduced pressure. The residue is partitioned between water (5 mL) and ethyl acetate (10 mL). The aqueous phase is extracted twice with ethyl acetate. The organic extracts are pooled, dried over magnesium sulfate, concentrated under reduced pressure to give 129 mg of crude base which is converted to the oxalate with oxalic acid (35 mg) in a mixture of ethanol and diethyl ether, giving 33 mg of (3S)-1-{3-[trans-4-(4-hydroxycyclohexyl)phenoxy]propyl}-3-methylpiperidine, oxalate as a white powder.

reactant | (3S)-1-{3-[4-(4-oxocyclohexyl)phenoxy]propyl}-3-methylpiperidine | 170 mg | O=C1CCC(CC1)C1=CC=C(OCCCN2C[C@H](CCC2)C)C=C1 | C21H31NO2
reactant | sodium borohydride | 20 mg | [BH4-].[Na+]
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
reactant | oxalic acid | 35 mg | C(C(=O)O)(=O)O | C2H2O4
solvent | methanol | 5 mL | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (3S)-1-{3-[trans-4-(4-hydroxycyclohexyl)phenoxy]propyl}-3-methylpiperidine | 33 mg | O[C@@H]1CC[C@H](CC1)C1=CC=C(OCCCN2C[C@H](CCC2)C)C=C1 | C21H33NO2
